US07749992B2
Step 1. Preparation of N-(3,5-Bistrifluoromethyl-benzyl)-N-(8-chloro-1-hydrazinocarbonyl-2,3,4,5-tetrahydro-1H-benzo[b]azepin-5-yl)-acetamide
A mixture of 5-[Acetyl-(3,5-bis-trifluoromethyl-benzyl)-amino]-8-chloro-2,3,4,5-tetrahydro-benzo[b]azepine-1-carbonyl chloride (1.0 mmol, 0.52 g) and hydrazine hydrate (50.0 mmol, 1.56 mL) in MeOH (5 mL) was refluxed at 70° C. for 12 h with vigorous stirring. The solvent was removed in vacuo and the crude product was purified by crystallization using EtOAc. The product was obtained as white solid; Rf 0.2 (EtOAc); MS (ES+): 523 (M+H+).

reactant | 5-[Acetyl-(3,5-bis-trifluoromethyl-benzyl)-amino]-8-chloro-2,3,4,5-tetrahydro-benzo[b]azepine-1-carbonyl chloride | 1.0 mmol, 0.52 g | C(C)(=O)N(C1C2=C(N(CCC1)C(=O)Cl)C=C(C=C2)Cl)CC2=CC(=CC(=C2)C(F)(F)F)C(F)(F)F | C22H18Cl2F6N2O2
reactant | hydrazine hydrate | 50.0 mmol, 1.56 mL | O.NN
reactant | EtOAc | CCOC(=O)C | C4H8O2
solvent | MeOH | 5 mL | CO | CH4O
product | N-(3,5-Bistrifluoromethyl-benzyl)-N-(8-chloro-1-hydrazinocarbonyl-2,3,4,5-tetrahydro-1H-benzo[b]azepin-5-yl)-acetamide | FC(C=1C=C(CN(C(C)=O)C2C3=C(N(CCC2)C(=O)NN)C=C(C=C3)Cl)C=C(C1)C(F)(F)F)(F)F | C22H21ClF6N4O2
